US04330559
2-Fluoromethyl-2-phthalimido-5-iodo-valeronitrile (1.20 g, 3.11 mmol) and potassium phthalimide (0.75 g, 4 mmol) are heated in dimethylformamide (25 mL) to 80° C. for 2 hours. After standing overnight at room temperature, the DMF is removed by vacuum distillation and the residue is dissolved in chloroform and washed with 1 N KOH and water. After drying (Na2SO4), evaporation gives 2-fluoromethyl-2,5-diphthalimidovaleronitrile as a solid.

reactant | 2-Fluoromethyl-2-phthalimido-5-iodo-valeronitrile | 3.11 mmol, 1.20 g | FCC(C#N)(CCCI)N1C(C=2C(C1=O)=CC=CC2)=O | C14H12FIN2O2
reactant | potassium phthalimide | 4 mmol, 0.75 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-fluoromethyl-2,5-diphthalimidovaleronitrile | FCC(C#N)(CCCN1C(C=2C(C1=O)=CC=CC2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C22H16FN3O4
